.SUBCKT irfba34n50c 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Nov 17, 00
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=5.76 LAMBDA=0.01551 KP=30.5913
+CGSO=6.058e-05 CGDO=1e-11
RS 8 3 0.013
D1 3 1 MD
.MODEL MD D IS=1.96276e-09 RS=0.00620917 N=1.31324 BV=500
+IBV=0.00025 EG=1.2 XTI=4 TT=0
+CJO=4.21955e-08 VJ=0.5 M=0.9 FC=0.1
RDS 3 1 1e+06
RD 9 1 0.05
RG 2 7 0.380971
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.85647e-09 VJ=0.5 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.405095 RS=3.00041e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.20204e-08
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.405095
.ENDS irfba34n50c

*SPICE Thermal Model Subcircuit
.SUBCKT IRFBA34N50CT 3 0

R_RTHERM1         2 3  0.057  
R_RTHERM2         1 2  0.063  
R_RTHERM3         0 1  0.025  
C_CTHERM1         2 3  0.006070175  
C_CTHERM2         1 2  0.115269841  
C_CTHERM3         0 1  5.503394482  

.ENDS IRFBA34N50CT
